US04031226
A mixture of 6 parts of 5-chloro-2-methoxy-4-nitro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5] dec-8-yl)ethyl]benzamide in 150 parts of acetic acid is hydrogenated at normal pressure and at room temperature with 1 part of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is taken up in water and the whole is alkalized. The precipitated product is filtered off and crystallized twice from ethanol, yielding 1.7 parts of 4-amino-5-chloro-2-methoxy-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]-dec-8-yl)ethyl]benzamide; mp. 247.4° C.

reactant | 5-chloro-2-methoxy-4-nitro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5] dec-8-yl)ethyl]benzamide | ClC=1C(=CC(=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C1)OC)[N+](=O)[O-] | C23H26ClN5O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-5-chloro-2-methoxy-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]-dec-8-yl)ethyl]benzamide | NC1=CC(=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1Cl)OC | C23H28ClN5O3
